US04384994
B. N-tert-Butyloxycarbonyl-L-valine.
Boc-ON (13.55 g, 55 mmol) was added portionwise to a mixture of L-valine (5.86 g, 50 mmol), triethylamine (7.59 g, 10.4 ml, 75 mmol), H2O (30 ml) and p-dioxane (30 ml). A clear solution (yellowish) was obtained after stirring the suspension at 25° for 1 hour. After stirring for 4 hours more, water (75 ml) and ethyl acetate (100 ml) were added. The aqueous layer was separated and washed with ethyl acetate (150 ml). The colorless aqueous phase was acidified to pH 3 with cold 1 N HCl. Boc-Val was extracted with ethyl acetate (3×75 ml). The combined extracts were washed with saturated NaCl and then dried (Na2SO4 /MgSO4). Solvent removal on a rotary evaporator under reduced pressure followed by drying under high vacuum gave a highly viscous oil: 10.51 g (96.8%).

reactant | Boc-ON | 55 mmol, 13.55 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | L-valine | 50 mmol, 5.86 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | triethylamine | 75 mmol, 10.4 ml, 7.59 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 75 ml | O | H2O
solvent | p-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 30 ml | O | H2O
product | N-tert-Butyloxycarbonyl-L-valine | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C10H19NO4
